US05573926
p-Nitrophenyl 2,3,4-tri-O-acetyl-6-O-trityl-β-D-glucopyranoside
In a 100-ml round-bottomed flask, 1.42 g of p-nitrophenyl β-D-glucopyranoside and 1.5 g of anhydrous trityl chloride are introduced into 10 ml of anhydrous pyridine, and the flask is left in the dark with stirring at 40° C. The reaction is followed by TLC, adding trityl chloride if necessary. After 24 hours, the flask is brought to room temperature and 6 ml of acetic anhydride are added. The reaction medium is left for 48 hours with stirring, the reaction being followed by TLC (silica gel, ether/petroleum ether, 7:3); it is taken up in 500 ml of ice-cold water and stirred for 2 hours. The mixture is then filtered through celite and the celite is rinsed with dichloromethane. The organic phase is washed successively with ice-cold water, 10% strength hydrochloric acid, saturated aqueous sodium bicarbonate solution and then ice-cold water. It is dried over sodium sulphate and concentrated under vacuum at 35° C. The residue is chromatographed on a column of silica, eluting with a 7:3 ether/petroleum ether mixture. The fractions containing the heteroside are combined and concentrated under vacuum at 35° C. 2.6 g of an oil are obtained (yield=83%), the product being pure in TLC: silica gel, ether/petroleum ether (7:3), Rf=0.33.

reactant | p-nitrophenyl β-D-glucopyranoside | 1.42 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO8
reactant | trityl chloride | 1.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | p-Nitrophenyl 2,3,4-tri-O-acetyl-6-O-trityl-β-D-glucopyranoside | 2.6 g, yield=83% | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H35NO11
